US07838688B2
1) Synthesis of (2,3-dihydrothieno[3,4-b][1,4]dioxin-3-yl)methyl benzoate
In a 100 mL round bottom flask 9.00 g (0.0382 mol) 2-(bromomethyl)-2,3-dihydrothieno[3,4-b][1,4]dioxine, 6.39 g (0.0459 mol) ammonium benzoate, and 55 g DMSO were combined. A reflux condenser was equipped and the reaction was heated to 100 C overnight. After cooling to room temperature, the reaction mixture was poured into water and the product was extracted with methylene chloride. The organic fractions were combined and the solvent removed under reduced pressure. Purification by column chromatography provided 7.5 g (71% yield) of a white solid whose structure was confirmed by 1H/13C NMR and LC-MS.

reactant | 2-(bromomethyl)-2,3-dihydrothieno[3,4-b][1,4]dioxine | 0.0382 mol, 9.00 g | BrCC1COC=2C(O1)=CSC2 | C7H7BrO2S
reactant | ammonium benzoate | 0.0459 mol, 6.39 g | C(C1=CC=CC=C1)(=O)[O-].[NH4+]
reactant | DMSO | 55 g | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | (2,3-dihydrothieno[3,4-b][1,4]dioxin-3-yl)methyl benzoate | 7.5 g, 71% yield | C(C1=CC=CC=C1)(=O)OCC1OC=2C(OC1)=CSC2 | C14H12O4S
